US03970693
A slurry of 14 g. (0.105 mole) of anhydrous aluminum chloride in 14.4 g. (0.150 mole) of fluorobenzene and 24 ml. of carbon disulfide is cooled to 15°C. To it is added 23.8 g. (0.100 mole) of α-bromoisobutyryl bromide over 10-15 minutes at 15°-20°C. The reaction is stirred for 5 minutes at 20°C and then quenched on ice. The product is extracted into chloroform. The chloroform layer is washed with aqueous sodium bicarbonate, dried over anhydrous sodium sulfate and concentrated to give 2-bromo-4'-fluoro-2-methylpropiophenone.

reactant | aluminum chloride | 0.105 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | fluorobenzene | 0.150 mole | FC1=CC=CC=C1 | C6H5F
reactant | α-bromoisobutyryl bromide | 0.100 mole | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | carbon disulfide | C(=S)=S | CS2
product | 2-bromo-4'-fluoro-2-methylpropiophenone | BrC(C(=O)C1=CC=C(C=C1)F)(C)C | C10H10BrFO
